US04014883
Preparation of 2-chloro-7H-indolo[2,3-c]quinolin-6(5H)-one
A suspension of 128 g. of 3-azido-6-chloro-4-phenylcarbostyril in 3 l. of toluene was heated to reflux for 5 hours. On cooling, 113 g. (98 percent) of analytically pure 2-chloro-7H-indolo[2,3-c]quinolin-6 (5H)-one crystallized from solution as colorless needles, having a melting point of 325°-327° (change in crystal form in the range of 270°-290°; melts with sublimation).

reactant | 3-azido-6-chloro-4-phenylcarbostyril | N(=[N+]=[N-])C=1C(NC2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O | C15H9ClN4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-7H-indolo[2,3-c]quinolin-6(5H)-one | ClC=1C=C2C3=C(C(NC2=CC1)=O)NC=1C=CC=CC13 | C15H9ClN2O
